US08562945B2
Compound 5: 1-(2,2-dimethoxyethyl)-1H-imidazole-2-carbaldehyde
To a solution of the imidazole-2-carboxaldeyde (0.41 g, 4.27 mmol) in DMF (1 mL) was added 1.1 eq. of 2-bromo-1,1-dimethoxyethane (0.79 g, 4.69 mmol), potassium carbonate and a catalytic amount of potassium iodide. The reactions were heated at 110° C. for 18 hrs followed by evaporation to dryness and purified utilizing a Biotage SP4 with a gradient method of 5-50% methanol in DCM to yield the desired compound (248 mg, 1.35 mmol, 32% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.9 (s, H), 7.85 (s, H), 7.55 (s, H), 5.82 (m, H), 4.75 (d, 2H), 3.45 (s, 6H).

reactant | imidazole-2-carboxaldeyde | 4.27 mmol, 0.41 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | 2-bromo-1,1-dimethoxyethane | 4.69 mmol, 0.79 g, 1.1 eq. | BrCC(OC)OC | C4H9BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2,2-dimethoxyethyl)-1H-imidazole-2-carbaldehyde | 1.35 mmol, 248 mg, 32% yield | COC(CN1C(=NC=C1)C=O)OC | C8H12N2O3
